US05741781
Step a: N-[(N-Cbz)-glycyl]-5-(meta-hydroxyphenyl)proline methyl ester
0.6 g of Z-glycine dissolved in dichloromethane is coupled with 0.83 g of 5-(meta-hydroxyphenyl)proline methyl ester in the presence of 2.06 g of PyBrOP and 2.6 ml of diisopropylethylamine. After stirring for 4 hours at room temperature, the organic phase is washed (sodium hydrogen carbonate, water, citric acid, water), dried over sodium sulphate, filtered and evaporated to dryness. The oily residue is chromatographed on silica gel (n-hexane/ethyl acetate. 4:6). A white solid corresponding to the expected product is obtained.

reactant | Z-glycine | 0.6 g | C1=CC=C(C=C1)COC(=O)NCC(=O)O | C10H11NO4
reactant | 5-(meta-hydroxyphenyl)proline methyl ester | 0.83 g | COC([C@H]1NC(CC1)C1=CC(=CC=C1)O)=O | C12H15NO3
reactant | PyBrOP | 2.06 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(N-Cbz)-glycyl]-5-(meta-hydroxyphenyl)proline methyl ester | COC([C@H]1N(C(CC1)C1=CC(=CC=C1)O)C(CNC(=O)OCC1=CC=CC=C1)=O)=O | C22H24N2O6
